US09216968B2
Methyl 2-chloro-5-(2,2-difluoroethoxy)benzoate
To a suspension of methyl 2-chloro-5-hydroxybenzoate (50 mg) and potassium carbonate (111 mg) in acetone (1 mL) was added 2-iodo-1,1-difluoroethane (35 μL), and the suspension was reacted at 120° C. for 10 minutes in a microwave synthesizer (Biotage, Initiator). After reaction at 130° C. for additional 15 minutes, the reaction mixture was directly purified on silica gel column chromatography to obtain the titled compound (55 mg) as yellow oil.

reactant | methyl 2-chloro-5-hydroxybenzoate | 50 mg | ClC1=C(C(=O)OC)C=C(C=C1)O | C8H7ClO3
reactant | potassium carbonate | 111 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodo-1,1-difluoroethane | 35 μL | ICC(F)F | C2H3F2I
solvent | acetone | 1 mL | CC(=O)C | C3H6O
product | Methyl 2-chloro-5-(2,2-difluoroethoxy)benzoate | 55 mg | ClC1=C(C(=O)OC)C=C(C=C1)OCC(F)F | C10H9ClF2O3
